US07759518B2
N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-1,2-dimethyl-1H-imidazole-4-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with 1,2-dimethyl-1H-imidazole-4-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.95 (br s, 1H), 7.37 (dd, J=1.8 & 10.8 Hz, 1H), 7.32-7.14 (m, 3H), 6.98 (dd, J=9.6 & 17.7 Hz, 1H), 5.87 (dt, J=4.2, 9.0 & 17.4 Hz, 1H), 5.55 (br s, 1H), 3.49 (s, 3H), 2.31 (s, 3H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 1,2-dimethyl-1H-imidazole-4-sulfonyl chloride | CN1C(=NC(=C1)S(=O)(=O)Cl)C | C5H7ClN2O2S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-1,2-dimethyl-1H-imidazole-4-sulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C=1N=C(N(C1)C)C)NC1=C(C=C(C=C1)I)F | C17H14F3IN4O2S
